US07402595B2
2-benzyl-6-bromo-3-hydroxymethyl-4-phenyl-2H-isoquinolin-1-one
To a solution of 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (150 mg) in tetrahydrofuran (THF) (5 ml) were added oxalyl chloride (60 μl) and DMF (0.1 ml), and the mixture was stirred at room temperature for 1 hr. The solvent was concentrated under reduced pressure. A solution of the residue in THF (3 ml) was added dropwise to a suspension of sodium borohydride (39 mg) in 1,2-dimethoxyethane. The mixture was stirred under ice-cooling for 1 hr. and poured into 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The extract was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, and dried over magnesium sulfate. The solvent was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to give the title compound (33 mg, 23%).

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 150 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Br)=O | C23H16BrNO3
reactant | oxalyl chloride | 60 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-benzyl-6-bromo-3-hydroxymethyl-4-phenyl-2H-isoquinolin-1-one | 33 mg, 23% | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1CO)C1=CC=CC=C1)Br)=O | C23H18BrNO2
